US07683185B2
(E)-3-(3-(4-Dimethylamino-phenylsulfanyl)-phenyl-N-hydroxy-acrylamide (52a).
To a solution of the (E)-3-(3-(4dimethylamino-phenylsulfanyl)-phenyl)-acrylic acid ethyl ester (327 mg, 1.0 mmol) in distilled THF (15 mL) containing 50% aqueous hydroxylamine (0.6 mL, 9.0 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1M, 1.6 mL, 1.6 mmol) in a dropwise manner. After stirring at 0° C. for 1 h, distilled water (15 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The aqueous solution was extracted with ethyl acetate (2×20 mL) and the combined extracts were washed with brine (20 mL), dried over anhydrous MgSO4, filtered and evaporated to dryness. The solid residue was recrystallised from ethanol to give the title compound (257 mg, 82%) as a yellow solid, mp 170° C. (decomp.).

reactant | (E)-3-(3-(4dimethylamino-phenylsulfanyl)-phenyl)-acrylic acid ethyl ester | 1.0 mmol, 327 mg | C(C)OC(\C=C\C1=CC(=CC=C1)SC1=CC=C(C=C1)N(C)C)=O | C19H21NO2S
reactant | hydroxylamine | 9.0 mmol, 0.6 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 1.6 mmol, 1M, 1.6 mL | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(4-Dimethylamino-phenylsulfanyl)-phenyl-N-hydroxy-acrylamide | 257 mg, 82% | CN(C1=CC=C(C=C1)SC=1C=C(C=CC1)C(C(=O)NO)=C)C | C17H18N2O2S
